US06585873B1
4b. Tetra methacryloyl triethylene tetramine
Triethylene tetramine (2.93 g, 0.02 moles) in dichloromethane (100 ml) was added drop wise over 6 hrs to a solution of methacryloyl chloride (8.32 g, 0.08 moles) in dichloromethane (40 ml), stirring vigorously at room temperature. The reaction was continued stirring at room temperature overnight and the suspension formed was filtered. The filtrate was extracted with NaOH (aq). The water was rotary evaporated and the residue was washed with acetone and filtered. The acetone filtrate was concentrated down and put through a silica gravity chromatography column with acetone as the elutant to obtain a white solid. The solid is recrystallized from diethyl ether to give white crystals, m.p. 168-170° C. 1H n.m.r. (D2O) δ, 5.71(19.7 Hz), 5.51 (7.8 Hz), 5.31(9.7 Hz), 5.06 (17.7 Hz), (8 H, d×4) C—CH2; 3.61 (6 H, m) N—CH2—CH2; 3.48(6 H, m) N—CH2—CH2; 1.96(4.1 Hz); 1.93(5.8 Hz); 1.91(6.0 Hz); 1.88(4.5 Hz), (12 H, d×4) CH3; 13C n.m.r. (D2O), δ 178.76, 178.70, 174.71, 174.61 (C=O); 142.19, 142.0, 141.71, 141.56 (C=CH2), 124.52, 124.19, 120.06, 119.60 (C=CH2); 22.30, 22.20, 20.48; (CH3), 50.33, 49.22, 46.45, 44.00, 40.22, 39.49 (N—CH2—CH2). MS: mz: 419.3 (MH+, 100%), 391.3(4), 266.2(10), 223.1(42); HRMS: found: 419.26695 C22H34N4O4 requires 418.5299. Elemental analysis: found: C, 62.97; H, 8.09; N, 13.31; C22H34N4O4 requires C, 63.13; H, 8.19; N, 13.39. I.R. (KBr) (CM−1) 3353, 1665, 1650, 1530, 1279.

reactant | Triethylene tetramine | 0.02 moles, 2.93 g | NCCNCCNCCN | C6H18N4
reactant | methacryloyl chloride | 0.08 moles, 8.32 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | KBr | [K+].[Br-]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | Tetra methacryloyl triethylene tetramine | C(C(=C)C)(=O)C(N(C(C(=C)C)=O)C(C(=C)C)=O)(CNCCNCCN)C(C(=C)C)=O | C22H34N4O4
